US07547691B2
Racemic 2-{5-Methyl-2-[3-(1-methylpiperidin-3-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from racemic 2-[5-methyl-2-(3-piperidin-3-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and isolated as a yellow solid. ES+(m/z) 464 [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | racemic 2-[5-methyl-2-(3-piperidin-3-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CNCCC2 | C25H31N5OS
product | Racemic 2-{5-Methyl-2-[3-(1-methylpiperidin-3-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CN(CCC2)C | InChI=1S/C26H33N5OS.2ClH/c1-17-15-28-26(27-12-4-6-18-7-5-13-31(2)16-18)30-24(17)23-14-21-20(8-3-9-22(21)33-23)25(32)29-19-10-11-19;;/h3,8-9,14-15,18-19H,4-7,10-13,16H2,1-2H3,(H,29,32)(H,27,28,30);2*1H
